* C:\Users\aguay\OneDrive\Documentos\GitHub\AnalisisSEPIC\Simulacion\Draft4.asc
C1 N001 N002 10µ
C2 Vo 0 100µ
R1 Vo 0 200
V1 Vi 0 24
V2 pwm 0 PULSE(0 1 0 1n 1n {D*T} {T})
S1 N001 0 pwm 0 MySW
L1 Vi N001 3m
L2 0 N002 3m
D1 N002 Vo MyD
.model D D
.lib C:\Users\aguay\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2
.param D=.5
.param f=60e3
.param T {1/f}
.model MyD D (Ron=.00001 Roff=1Meg Vfwd=0.001)
.model MySW SW (Ron=.01 Roff=1Meg Vt=.001)
.meas TRAN IL1max MAX I(L1) FROM 0.98 TO {0.98+T}
.meas tran IL1min MIN I(L1) FROM=0.98 TO={0.98+T}
.meas tran Iriple PARAM IL1max-IL1min
.meas TRAN IL2max MAX I(L2) FROM 0.98 TO {0.98+T}
.meas tran IL2min MIN I(L2) FROM=0.98 TO={0.98+T}
.meas tran IL1 AVG I(L1) from=1 to=2
.meas tran deltaIL1IL1 PARAM {Iriple/IL1}
.meas tran deltaIL2IL2 PARAM {IripleL2/IL2}
.meas tran IL2 AVG I(L2) from=1 to=2
.meas tran IripleL2 PARAM IL2max-IL2min
.backanno
.end
