* C:\Users\Lenovo\Documents\GitHub\AnalisisSEPIC\Simulacion\Draft4.asc
C1 N002 N003 10µ
C2 Vo P001 54µ
R1 Vo 0 100
V1 Vi 0 24
V2 pwm 0 PULSE(0 1 0 1n 1n {D*T} {T})
S1 N002 0 pwm 0 MySW
L1 Vi N001 3m
L2 0 N003 3m
D1 N003 Vo MyD
R3 N002 N001 1
R2 P001 0 0.5
.model D D
.lib C:\Users\Lenovo\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
.param D=.5
.param f=60e3
.param T {1/f}
.model MyD D (Ron=.00001 Roff=1Meg Vfwd=0.001)
.model MySW SW (Ron=.01 Roff=1Meg Vt=.001)
.meas TRAN IL1max MAX I(L1) FROM 0.98 TO {0.98+T}
.meas tran IL1min MIN I(L1) FROM=0.98 TO={0.98+T}
.meas tran Iriple PARAM IL1max-IL1min
.meas TRAN IL2max MAX I(L2) FROM 0.98 TO {0.98+T}
.meas tran IL2min MIN I(L2) FROM=0.98 TO={0.98+T}
.meas tran IripleL2 PARAM IL2max-IL2min
.meas tran Vmax MAX V(Vo) From 0.98 To {0.98+T}
.meas tran Vmin MIN V(Vo) From 0.98 To {0.98+T}
.meas tran deltaVo Param Vmax-Vmin
.backanno
.end
